US04107308
4-(4-Diphenylmethyl-1-piperazinyl)imidazo[1,5-d]-as-triazine
A solution of 6.68 gm of 4-(methylthio)-imidazo[1,5-d]-as-triazine, 15.1 gm of N-diphenylmethylpiperazine and 50 ml of xylene is refluxed for 19 hours. Upon evaporation to dryness, the residue is chromatographed on a silica gel dry column. The product is recrystallized from ethanol and has a melting point equal to 192°-193° C.

reactant | 4-(methylthio)-imidazo[1,5-d]-as-triazine | 6.68 gm | CSC1=NN=CC=2N1C=NC2 | C6H6N4S
reactant | N-diphenylmethylpiperazine | 15.1 gm | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-Diphenylmethyl-1-piperazinyl)imidazo[1,5-d]-as-triazine | C1(=CC=CC=C1)C(N1CCN(CC1)C1=NN=CC=2N1C=NC2)C2=CC=CC=C2 | C22H22N6
